*#######################################################################
*
* Copyright 2023 IHP PDK Authors
* 
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
* 
*    https://www.apache.org/licenses/LICENSE-2.0
* 
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
*
*#######################################################################
       
*--------------------------------------------------
* Testfield: T270
* Technology: SG13
* Lot: PQT401
* Wafer: 19
* DUT: diodevdd_2kv
* Temperature range: -40C ... +125C
* Date: 25.02.2013
* Remarks: no scaling
* DC Measurements  at T=27C, T=-40C and T=125C
* CV Measurements at T=27C
* bipolar effect NOT taken into account
* No temperature modeling of the VDD-VSS diode (dsub)
*--------------------------------------------------
*


.model diodevdd_2kv_mod D (level=1 tnom=27 is=4.911E-019 n=1.04 ik=10m rs=289.6 cj0=8.716E-016 m=0.3294 vj=0.6621 fc=0.5 bv=11.81 ibv=4.744E-016 tcv=-0.8212E-003 nbv = 1 isr=5.422E-015 xti=4.0 trs=0 trs2=0 tt=7.009E-007)

.model dsub_2kv_mod D (level=1 tnom=27 is=1.7E-016 n=1.0 ik=10m rs=4.759 cj0=99.77E-018 m=0.56 vj=0.4547 fc=0.5 bv=10.0 ibv=1.0E-019 tcv=0.0 nbv = 1 isr=5.422E-015 xti=3.0 trs=0 trs2=0 tt=7.009E-007)



.subckt diodevdd_2kv VDD PAD VSS
.params DEV_A=35  DEV_P=58.08  sub_A=224.9559  sub_P=81.12 m=1

D1 PAD  VDD  diodevdd_2kv_mod area = DEV_A  pj = DEV_P  m = m
D2 VSS  VDD  dsub_2kv_mod area = sub_A  pj = sub_P m = m

.ends diodevdd_2kv

.subckt diodevss_2kv VDD PAD VSS
.params DEV_A=35  DEV_P=58.08  sub_A=224.9559  sub_P=81.12 m=1

D1 VSS  PAD  diodevdd_2kv_mod area = DEV_A  m = m
D2 VSS  PAD  dsub_2kv_mod area = sub_A pj = sub_P m = m  

.ends diodevss_2kv
